US05665718
1.15 g (3.5 mmol) of 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one were stirred at room temperature for 1 hour with 1 g (11.7 mmol) of piperidine and 10 ml of N,N-dimethylformamide. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate/ethanol 9/1 there was obtained 0.98 g (74%) of 5-methyl-3-[5-(piperidin-1-yl)methyl-1,2,4-oxadiazol-3-yl]-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one of m.p. 167°-168°, which was converted into the hydrochloride.

reactant | 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 3.5 mmol, 1.15 g | ClCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C15H12ClN5O2
reactant | piperidine | 11.7 mmol, 1 g | N1CCCCC1 | C5H11N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-methyl-3-[5-(piperidin-1-yl)methyl-1,2,4-oxadiazol-3-yl]-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.98 g, 74% | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C2=NOC(=N2)CN2CCCCC2 | C20H22N6O2
